US08895497B2
4-Methyl-2-(3-phenyl-2-[(2-pyrazinylcarbonyl)amino]propanoylamino) pentanoic acid (200 mg, 0.52 mmol) was dissolved in THF (1.2 mL). N-Methylmorpholine (0.057 mL, 0.52 mmol) was added, and the resulting clear solution was cooled to −10° C. Isobutyl chloroformate (0.068 mL, 0.52 mmol) was added dropwise to cause N-Methylmorpholine HCl salt precipitation. N,N′-dimethylhydrazine hydrochloride salt (346 mg, 2.6 mmol) was dissolved in 3N NaOH (1.7 mL). The resulting mixture was added to the solution and stirred for 1 h. The solution was extracted by EtOAc, and washed with 5% NaHSO3, saturated sodium bicarbonate solution, and brine. The organic layer was dried over Na2SO4, filtered, and concentrated by rotary evaporation. Purification by chromatography (silica, 20/1: DCM/MeOH, Rf=0.3) afforded N2-[1-benzyl-2-(1-[(1,2-dimethylhydrazino) carbonyl]-3-methylbutylamino)-2-oxoethyl]-2-pyrazinecarboxamide as a pale yellow solid (197 mg, 89%).

reactant | 4-Methyl-2-(3-phenyl-2-[(2-pyrazinylcarbonyl)amino]propanoylamino) pentanoic acid | 0.52 mmol, 200 mg | CC(CC(C(=O)O)NC(C(CC1=CC=CC=C1)NC(=O)C1=NC=CN=C1)=O)C | C20H24N4O4
reactant | N-Methylmorpholine | 0.52 mmol, 0.057 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 0.52 mmol, 0.068 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N,N′-dimethylhydrazine hydrochloride salt | 2.6 mmol, 346 mg | Cl.CNNC
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
solvent | NaOH | 3N, 1.7 mL | [OH-].[Na+]
product | N2-[1-benzyl-2-(1-[(1,2-dimethylhydrazino) carbonyl]-3-methylbutylamino)-2-oxoethyl]-2-pyrazinecarboxamide | 197 mg, 89% | C(C1=CC=CC=C1)C(C(=O)NC(CC(C)C)C(=O)N(NC)C)NC(=O)C1=NC=CN=C1 | C22H30N6O3
